US05034411
a) 4-[3-[[3-[[4-(acetyloxy)phenyl]thio]propyl]ethylamino]-2-hydroxypropoxy]benzonitrile
To a solution of sodium hydroxide (0.9 g in 25 ml dioxan) was added 4-[3-[ethyl[3-[(4-hydroxyphenyl)thio]propyl]amino]-2-hydroxypropoxy]-benzonitrile (3.4 g, 8.8 mmol) and tetrabutylammonium hydrogen sulphate. To the solution was added dropwise acetylchloride (0.78 g, 10 mmol) dissolved in dioxan (10 ml). The solution was stirred at room temperature for 2 h. After filtration and evaporation the residue was dissolved in methylene chloride, treated with charcoal and filtered through Celite. The solvent was evaporated. The yield of the title compound was 3.8 g.

reactant | sodium hydroxide | 25 ml, 0.9 g | [OH-].[Na+]
reactant | 4-[3-[ethyl[3-[(4-hydroxyphenyl)thio]propyl]amino]-2-hydroxypropoxy]-benzonitrile | 8.8 mmol, 3.4 g | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCSC1=CC=C(C=C1)O | C21H26N2O3S
reactant | acetylchloride | 10 mmol, 0.78 g | C(C)(=O)Cl | C2H3ClO
catalyst | tetrabutylammonium hydrogen sulphate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[3-[[3-[[4-(acetyloxy)phenyl]thio]propyl]ethylamino]-2-hydroxypropoxy]benzonitrile | C(C)(=O)OC1=CC=C(C=C1)SCCCN(CC(COC1=CC=C(C#N)C=C1)O)CC | C23H28N2O4S
